US08293754B2
Ethyl 2-(3,4-dichlorobenzyl)-3,5-dimethyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate
A mixture of 100 mg of ethyl 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate, 40 mg of potassium carbonate, 10 mL of acetonitrile and 40 mg of methyl iodide was heated under reflux for 1.5 hours. After condensing the reaction mixture under reduced pressure, the residue was purified on silica gel column chromatography (ethyl acetate:hexane=1:1) to provide 60 mg (58%) of the title compound.

reactant | ethyl 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 100 mg | ClC=1C=C(CC=2NC(C3=C(N2)SC(=C3C)C(=O)OCC)=O)C=CC1Cl | C17H14Cl2N2O3S
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 40 mg | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Ethyl 2-(3,4-dichlorobenzyl)-3,5-dimethyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 60 mg, 58% | ClC=1C=C(CC=2N(C(C3=C(N2)SC(=C3C)C(=O)OCC)=O)C)C=CC1Cl | C18H16Cl2N2O3S
